US06933319B2
4-(4-{[tert-Butyl(dimethyl)silyl]oxy}phenyl)-1-[2,4-bis(methoxymethoxy)phenyl]cyclohexanol
A round bottomed flask equipped with magnetic stirrer was charged with 1-bromo-2,4-bis(methoxymethoxy)benzene (277 mg, 1.00 mmol) and anhydrous tetrahydrofuran (5 ml). The stirred solution was cooled to −78° C. and N,N,N′N′-tetramethylethylene diamine (0.32 ml, 2.10 mmol) was added followed by dropwise addition of n-butyl lithium (0.88 ml, 2.10 mmol, 2.40M solution in cyclohexanes). The resulting solution was stirred for 40 min at −78° C., then 4-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexanone (304 mg, 1.00 mmol) was added via syringe as a solution in anhydrous tetrahydrofuran (2 ml) and the reaction mixture stirred for 30 min at −78° C., then allowed to warm to room temperature over 3 hr. The reaction was quenched with aqueous hydrochloric acid (5 ml, 0.10M), then poured into a separating funnel containing ethyl acetate (50 ml) and water (10 ml). The layers were separated and the aqueous phase extracted with ethyl acetate (3×5 ml). The combined organic layers were washed with brine (10 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting oil was purified via flash column chromatography (SiO2, ethyl acetate/petroleum ether, 3:7, v/v) furnishing the title compound as a white solid (127 mg, 25%) and a mixture of diastereoisomers. δH(CDCl3) 0.19 (6H, s), 0.98 (6H, s), 1.63 (2H, m), 1.84 (2H, m), 1.96 (2H, m), 2.56 (2H, m), 2.70 (1H, m), 3.48 (3H, s), 3.49 (3H, s), 3.85 (1H, s), 5.15 (2H, s), 5.24 (2H, s), 6.68 (1H, dd), 6.73 (2H, d), 6.85 (1H d), 7.05 (2H, d), 7.33 (1H, d).

reactant | 1-bromo-2,4-bis(methoxymethoxy)benzene | 1.00 mmol, 277 mg | BrC1=C(C=C(C=C1)OCOC)OCOC | C10H13BrO4
reactant | n-butyl lithium | 2.10 mmol, 2.40M, 0.88 ml | C(CCC)[Li]
reactant | 4-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexanone | 1.00 mmol, 304 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1CCC(CC1)=O | C18H28O2Si
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(4-{[tert-Butyl(dimethyl)silyl]oxy}phenyl)-1-[2,4-bis(methoxymethoxy)phenyl]cyclohexanol | 127 mg, 25% | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1CCC(CC1)(O)C1=C(C=C(C=C1)OCOC)OCOC | C28H42O6Si
